US07915424B2
5-(4-Fluoro-3-formylphenylethynyl)-nicotinonitrile
Combine 5-trimethylsilanylethynyl-nicotinonitrile (1.30 g, 11.5 mmol), (prepared as described in PREPARATION 3), 2-fluoro-5-iodobenzaldehyde (3.45 g, 13.8 mmol, (prepared essentially as described in Tet. Lett., 33, 7499, (1992)), bis(triphenylphosphine)palladium (II) dichloride (404 mg, 0.575 mmol), copper (I) iodide (219 mg, 1.15 mmol), and triethylamine (22.4 mL, 161 mmol) in tetrahydrofuran (9 mL). Cool the suspension to −78° C. and treat with a 1.0 M solution of tetrabutylammonium fluoride (11.5 mL) in tetrahydrofuran. After 10 min, heat to 60° C. for 2 h. Cool to room temperature and filter through diatomaceous earth washing with ethyl acetate. Purify the crude product by silica gel chromatography, eluting with a gradient from 80:20 to 60:40 hexanes:ethyl acetate, to give the title compound as an off-white crystalline solid (1.3 g, 45%).

reactant | 5-trimethylsilanylethynyl-nicotinonitrile | 11.5 mmol, 1.30 g | C[Si](C)(C)C#CC=1C=NC=C(C#N)C1 | C11H12N2Si
reactant | 2-fluoro-5-iodobenzaldehyde | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | triethylamine | 161 mmol, 22.4 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 11.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium | 0.575 mmol, 404 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 1.15 mmol, 219 mg | [Cu]I
product | 5-(4-Fluoro-3-formylphenylethynyl)-nicotinonitrile | 1.3 g, 45% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)C=O | C15H7FN2O
